US09371321B2
Step A: (S)-2-Amino-4-((1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-6-methylpyrimidine-5-carbonitrile
A microwave vial was charged with (S)-1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (2 g, 7.87 mmol), 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile (1.592 g, 9.44 mmol), acetonitrile (40 mL), and DIPEA (5.50 mL, 31.5 mmol). The reaction mixture was heated to 75° C. for 1 hour in an oil bath and then cooled to room temperature. A precipitate was isolated by vacuum filtration and washed with acetonitrile to give the title compound as an off-white solid (2.85 g, 94%). ESI-MS m/z [M+H]+ calc'd for C16H16BrN7, 386. found 386.

reactant | (S)-1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 7.87 mmol, 2 g | BrC=1C=C2C(=NC1[C@H](C)N)C=CN2C | C10H12BrN3
reactant | 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile | 9.44 mmol, 1.592 g | NC1=NC(=C(C(=N1)Cl)C#N)C | C6H5ClN4
reactant | DIPEA | 31.5 mmol, 5.50 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | (S)-2-Amino-4-((1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-6-methylpyrimidine-5-carbonitrile | 2.85 g, 94% | NC1=NC(=C(C(=N1)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)Br)C#N)C | C16H16BrN7
